US09428499B2
Step-a: Synthesis of 3-Nitro-N-(tetrahydro-2H-pyran-4-yl)benzamide
Under nitrogen atmosphere, 3-nitrobenzoic acid (1.00 g, 5.98 mmol) was taken in THF (20 ml) and the mixture was cooled to 0° C. followed by addition of N-methylmorpholine (0.85 ml, 7.78 mmol) and ethyl chloroformate (6.58 mmol). The reaction mixture was stirred for 30 min at 0° C. and tetrahydro-2H-pyran-4-amine (0.6 ml, 5.98 mmol) was added and the reaction mixture was stirred at room temperature for 30 min. The reaction mixture was concentrated under vacuum and the residue was taken in ethyl acetate (20 ml), washed with water and brine, dried over sodium sulfate and concentrated under vacuum to afford the solid product (1.2 gm).

reactant | 3-nitrobenzoic acid | 5.98 mmol, 1.00 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | N-methylmorpholine | 7.78 mmol, 0.85 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 6.58 mmol | ClC(=O)OCC | C3H5ClO2
reactant | tetrahydro-2H-pyran-4-amine | 5.98 mmol, 0.6 ml | O1CCC(CC1)N | C5H11NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-Nitro-N-(tetrahydro-2H-pyran-4-yl)benzamide | 1.2 gm | [N+](=O)([O-])C=1C=C(C(=O)NC2CCOCC2)C=CC1 | C12H14N2O4
